US09145380B2
2,3-Dichloro-N-(4-fluoro-5-methoxy-2-sulfamoylphenyl)benzenesulfonamide
2-Amino-5-fluoro-4-methoxybenzenesulfonamide (200 mg, 0.91 mmol) and 2,3-dichlorobenzene-1-sulfonyl chloride (290 mg, 1.18 mmol) were dissolved in anhydrous dichloromethane (5 mL). Anhydrous triethylamine (0.290 mL, 2.09 mmol) was added and the reaction was stirred at room temperature for 48 hours under an inert atmosphere. The reaction was quenched using 2 M hydrochloric acid (20 mL) and was extracted with dichloromethane. The combined organic phase were washed with water, dried over magnesium sulfate and concentrated under vacuum. Purification by preparative HPLC gave 23 mg (6% yield) of the title compound.

reactant | 2-Amino-5-fluoro-4-methoxybenzenesulfonamide | 0.91 mmol, 200 mg | NC1=C(C=C(C(=C1)OC)F)S(=O)(=O)N | C7H9FN2O3S
reactant | 2,3-dichlorobenzene-1-sulfonyl chloride | 1.18 mmol, 290 mg | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | triethylamine | 2.09 mmol, 0.290 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2,3-Dichloro-N-(4-fluoro-5-methoxy-2-sulfamoylphenyl)benzenesulfonamide | 23 mg, 6% yield | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=C(C=C(C(=C1)OC)F)S(N)(=O)=O | C13H11Cl2FN2O5S2
